US05506191
A mixture of 3-fluorophenylthiourea (20.0 g, 166.7 mmol) and methyl iodide (24.8 g, 175.0 mmol) in 300 ml of ethanol is stirred at RT for 2 days. It is then heated to reflux for 30 min., cooled and stripped of solvent to give S-methyl-3-fluorophenylisothiourea hydroiodide, an orange solid.

reactant | 3-fluorophenylthiourea | 166.7 mmol, 20.0 g | FC=1C=C(C=CC1)NC(=S)N | C7H7FN2S
reactant | methyl iodide | 175.0 mmol, 24.8 g | CI | CH3I
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | S-methyl-3-fluorophenylisothiourea hydroiodide | I.CSC(NC1=CC(=CC=C1)F)=N | InChI=1S/C8H9FN2S.HI/c1-12-8(10)11-7-4-2-3-6(9)5-7;/h2-5H,1H3,(H2,10,11);1H
